US08039458B2
(2-Bromo-5-fluoro-phenyl)-hydrazine.
To a suspension of (2-bromo-5-fluoro-phenyl)-hydrazine hydrochloride (41 g, 0.17 mol; prepared from 2-bromo-5-fluoroaniline by the method described in U.S. Pat. No. 3,959,309 (1976) p-23, and p-48) in water (300 mL) and CH2Cl2 (200 mL) was added 1N—NaOH (200 mL) until the solution was basic. The CH2Cl2 layer was separated and the aqueous portion was further extracted with CH2Cl2 (150 mL). The combined organic extracts were dried (MgSO4), filtered, and concentrated to obtain 33 g (0.16 mol) of the title compound as an off-white powder: HPLC: 0.89 min (AP 97% at 220 nm); 1H NMR (CDCl3, 500 MHz) δ ppm 3.62 (2H, s, NH2), 5.75 (1H, s, NH), 6.37 (1H, m, 5-CH), 6.87 (1H, dd, J=11, 3 Hz, 3-CH), 7.31 (1H, dd, J=8.6, 5.8 Hz, 6-CH); 13C NMR (CDCl3, 125.8 Hz) 8 ppm 100.0 (d, J=29 Hz, 3-CH), 101.4 (d, J=2.9 Hz, 1-C), 106.1 (d, J=23 Hz, 5-CH), 133.1 (d, J=9.6 Hz, 6-CH), 149.1 (d, J=10.6 Hz, 2-C), 163.5 (d, J=244 Hz, 4-CF); LC/MS m/z 205/207 (M+H).

reactant | (2-bromo-5-fluoro-phenyl)-hydrazine hydrochloride | Cl.BrC1=C(C=C(C=C1)F)NN
reactant | 2-bromo-5-fluoroaniline | BrC1=C(N)C=C(C=C1)F | C6H5BrFN
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
reactant | NaOH | 200 mL | [OH-].[Na+]
solvent | water | 300 mL | O | H2O
product | (2-Bromo-5-fluoro-phenyl)-hydrazine | 0.16 mol, 33 g | BrC1=C(C=C(C=C1)F)NN | C6H6BrFN2
